US07015029B2
Penicillaminamide (74.0 g, 0.50 mol) was dissolved in distilled water (800 ml) and added with 37% formalin (60.8 g, 0.75 mol). The mixture was heated with stirring at 50° C. under normal pressure, allowed to react for 2 hours and cooled. Subsequently, water was evaporated by using an evaporator. The residue was washed with acetone to obtain white crystals of 5,5-dimethyl-1,3-thiazolidine-4-carboxylic acid amide (75.5 g, 0.47 mol). The yield to penicillaminamide was 94.4 mole %.

reactant | Penicillaminamide | 0.50 mol, 74.0 g | N[C@@H](C(C)(C)S)C(=O)N | C5H12N2OS
reactant | formalin | 0.75 mol, 60.8 g | C=O | CH2O
solvent | water | 800 ml | O | H2O
product | 5,5-dimethyl-1,3-thiazolidine-4-carboxylic acid amide | 0.47 mol, 75.5 g | CC1(C(NCS1)C(=O)N)C | C6H12N2OS
